US08008298B2
A mixture of crude 3,3-dimethyl-4-oxo-4-[2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butyraldehyde (0.161 g, 0.305 mmol), morpholine (0.029 mL, 0.34 mmol), and sodium triacetoxyborohydride (0.129 g, 0.610 mmol) in 3 mL of 1,2-dichloroethane was stirred for 15 h. A sat. aq. NaHCO3 solution (10 mL) was added, and the mixture stirred for 10 min. The layers were separated, and the aqueous layer was extracted with two 20 mL portions of ethyl acetate. The three combined organic layers were dried over MgSO4, filtered, and concentrated to a residue. Column chromatography (0→10% MeOH/CH2Cl2) afforded 0.024 g (13%) of 2,2-dimethyl-4-morpholin-4-yl-1-[2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butan-1-one as a brown oil.

reactant | 3,3-dimethyl-4-oxo-4-[2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butyraldehyde | 0.305 mmol, 0.161 g | CC(CC=O)(C(C1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)COCC[Si](C)(C)C)=O)C | C27H37N3O6Si
reactant | morpholine | 0.34 mmol, 0.029 mL | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 0.610 mmol, 0.129 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 2,2-dimethyl-4-morpholin-4-yl-1-[2-(3,4,5-trimethoxy-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butan-1-one | 0.024 g, 13% | CC(C(=O)C1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)COCC[Si](C)(C)C)(CCN2CCOCC2)C | C31H46N4O6Si
